US07465795B2
4-amino-N-cyclopropyl-8-(2,6-dimethoxypyridin-3-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (143 mg, 0.47 mmol) and 2,6-dimethoxypyridine-3-boronic acid (170 mg, 0.94 mmol) were reacted. After purification the title compound (132 mg, 77% yield) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.03 (d, J=4.9 Hz, 1H), 8.38 (d, J=8.0 Hz, 1H), 7.76 (m, 2H), 7.67 (d, J=8.0 Hz, 1H), 6.48 (d, J=8.0 Hz, 1H), 3.93 (s, 3H), 3.77 (s, 3H), 2.96 (m, 1H), 0.70(m, 4H). MS APCI, m/z=366.

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.47 mmol, 143 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 2,6-dimethoxypyridine-3-boronic acid | 0.94 mmol, 170 mg | COC1=NC(=CC=C1B(O)O)OC | C7H10BNO4
product | 4-amino-N-cyclopropyl-8-(2,6-dimethoxypyridin-3-yl)cinnoline-3-carboxamide | 132 mg, 77% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C(=NC(=CC1)OC)OC)C(=O)NC1CC1 | C19H19N5O3
